US06051712
A solution of 736 mg (1.28 mmol) of (3R,4R)-4-(4-bromophenyl)-3-(naphthalen-2-ylmethoxy)-1-[(1 S,4R)-4,7,7-trimethyl-3-oxo-2-oxabicyclo[2.2.1]heptane-1-carbonyl]-piperidine in 32 ml of absolute tetrahydrofuran was cooled to -70° C. Thereto there was added dropwise a solution of 1.86 ml (6.5 mmol) of sodium dihydrido-bis-(2-methoxyethoxy)-aluminate (70% in toluene, about 3.5M) in 32 ml of tetrahydrofuran. The mixture was warmed to -40° C., stirred at -40° C. for 8 hours, thereafter cooled to -78° C. and treated dropwise with a solution of 0.5 ml of glacial acetic acid in 10 ml of tetrahydrofuran. For the working-up, the reaction mixture was partitioned between 200 mg of ethyl acetate and 200 ml of aqueous 5% sodium hydrogen carbonate solution. The organic phase was separated and the aqueous phase was back-extracted three times with 50 ml of ethyl acetate each time. The combined organic phases were dried over magnesium sulphate and finally the solvent was distilled off under reduced pressure. The crude product (800 mg) was purified by chromatography on silica gel with a 9:1 mixture of methylene chloride and methanol as the eluent. There were obtained 344 mg (68% of theory) of (3R,4R)-4-(4-bromophenyl)-3-(naphthalen-2-ylmethoxy)-piperidine as a colourless solid; MS: 396, 398 (M+H)+.

reactant | (3R,4R)-4-(4-bromophenyl)-3-(naphthalen-2-ylmethoxy)-1-[(1 S,4R)-4,7,7-trimethyl-3-oxo-2-oxabicyclo[2.2.1]heptane-1-carbonyl]-piperidine | 1.28 mmol, 736 mg | BrC1=CC=C(C=C1)[C@@H]1[C@H](CN(CC1)C(=O)[C@]12OC([C@](CC1)(C2(C)C)C)=O)OCC2=CC1=CC=CC=C1C=C2 | C32H34BrNO4
reactant | SDMA | 6.5 mmol, about 3.5M, 1.86 ml | CNC(=NC)NCCC[C@@H](C(=O)O)N | C8H18N4O2
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3R,4R)-4-(4-bromophenyl)-3-(naphthalen-2-ylmethoxy)-piperidine | 344 mg, 68% | BrC1=CC=C(C=C1)[C@@H]1[C@H](CNCC1)OCC1=CC2=CC=CC=C2C=C1 | C22H22BrNO
